US04837217
In 40 ml of methanol were dissolved 2.2 g of 2-t-butyl-4,5-dichloro-3(2H)-pyridazinone and 2.4 g of 5-mercaptomethyl(2,2,2-trifluoro-ethoxy)-pyridine, and thereto was added 1.2 g of sodium carbonate. The reaction mixture was stirred overnight at room temperature and then poured into water. Then, procedures similar to those in Preparation Example 24 were conducted to obtain 3.6 g of 2-t-butyl-4-chloro-5-[{6-(2,2,2-trifluoroethoxy)-3-pyridyl}-methylthio]-3(2H)-pyridazinone, m.p. 109.0°~110.0° C.

reactant | 2-t-butyl-4,5-dichloro-3(2H)-pyridazinone | 2.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)Cl | C8H10Cl2N2O
reactant | 5-mercaptomethyl(2,2,2-trifluoro-ethoxy)-pyridine | 2.4 g | SCC=1C=CC(=NC1)OCC(F)(F)F | C8H8F3NOS
reactant | sodium carbonate | 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | 2-t-butyl-4-chloro-5-[{6-(2,2,2-trifluoroethoxy)-3-pyridyl}-methylthio]-3(2H)-pyridazinone | 3.6 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC=1C=NC(=CC1)OCC(F)(F)F | C16H17ClF3N3O2S
